US09056858B2
[1-(5-Methanesulfonyl-furan-2-yl)-cyclopropyl]-carbamic acid tert-butyl ester is prepared from [1-(5-iodo-furan-2-yl)-cyclopropyl]-carbamic acid tert-butyl ester (0.500 g, 1.43 mmol) according to the copper (I) iodide-mediated coupling procedure described in Example 19; however, sodium methanesulfinate is used as coupling partner instead of sodium 3-methoxy-3-oxopropane-1-sulfinate.

reactant | [1-(5-iodo-furan-2-yl)-cyclopropyl]-carbamic acid tert-butyl ester | 1.43 mmol, 0.500 g | C(C)(C)(C)OC(NC1(CC1)C=1OC(=CC1)I)=O | C12H16INO3
reactant | sodium methanesulfinate | CS(=O)[O-].[Na+]
reactant | sodium 3-methoxy-3-oxopropane-1-sulfinate | COC(CCS(=O)[O-])=O.[Na+]
catalyst | copper (I) iodide | [Cu]I
product | [1-(5-Methanesulfonyl-furan-2-yl)-cyclopropyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CC1)C=1OC(=CC1)S(=O)(=O)C)=O | C13H19NO5S
